US08426447B2
A resealable tube was charged with (t-4)-tetrakis(triphenylphosphine)palladium (27.1 mg, 0.023 mmol), copper(i) iodide (8.94 mg, 0.047 mmol),2′-bromo-N-tert-butyl-7′-(pyrimidin-5-yl)-5H-spiro[thiazole-4,9′-xanthen]-2-amine (113 mg, 0.235 mmol), 3,3-dimethylbut-1-yne (144 μL, 1.174 mmol), diisopropylamine (669 μL, 4.69 mmol) and DMF (1.9 mL). The mixture was heated at 80° C. After 18 hrs, the mixture was cooled to RT, filtered through celite with EtOAc, and concentrated in vacuo. The residue was adsorbed onto silica gel and purified by silica gel chromatography using 30-75% Hexanes:EtOAc to afford N-tert-butyl-2′-(3,3-dimethylbut-1-ynyl)-7′-(pyrimidin-5-yl)-5H-spiro[thiazole-4,9′-xanthen]-2-amine as an off-white foam. MH+=483.2.

reactant | 2′-bromo-N-tert-butyl-7′-(pyrimidin-5-yl)-5H-spiro[thiazole-4,9′-xanthen]-2-amine | 0.235 mmol, 113 mg | BrC1=CC=2C3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=NC1)N=C(SC3)NC(C)(C)C | C23H21BrN4OS
reactant | 3,3-dimethylbut-1-yne | 1.174 mmol, 144 μL | CC(C#C)(C)C | C6H10
reactant | diisopropylamine | 4.69 mmol, 669 μL | C(C)(C)NC(C)C | C6H15N
catalyst | copper(i) iodide | 0.047 mmol, 8.94 mg | [Cu]I
solvent | DMF | 1.9 mL | CN(C)C=O | C3H7NO
product | N-tert-butyl-2′-(3,3-dimethylbut-1-ynyl)-7′-(pyrimidin-5-yl)-5H-spiro[thiazole-4,9′-xanthen]-2-amine | C(C)(C)(C)NC=1SCC2(C3=CC(=CC=C3OC=3C=CC(=CC23)C#CC(C)(C)C)C=2C=NC=NC2)N1 | C29H30N4OS
